Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ ___ with PMHx of multiple spinal surgeries who
was transferred from ___ with concern for C1 fracture
after presenting s/p fall.  

According to the patient's wife, the patient had been napping in
the chair in front of the TV. He was going to get ready for bed
around 10:30/ 11pm. He was trying to get out of his chair by
pushing on the arms and was unable to stand or sit and was
perched and ultimately fell on his face. His face hit the floor
and his nose started bleeding profusely. The patient's wife does
not think he passed out. Talking the whole time. Daughter and
husband came and helped get him up. They were worried because he
was bleeding so much from his nose so brought him to the ED at
___. In ___, there was concern for C1 fracture so the
patient was transferred to ___ for spine evaluation. This CT
scan was reviewed by radiology and it was determined that this 
is
an old fracture.  When asking the patient the details of his
fall, he told me an entirely different story about falling in 
his
kitchen and his legs giving way. His wife does report that the
patient has memory problems which have been getting worse. 

In addition to his recent falls, the patient's wife reports the
patient has been having some skin problems. He recently went to
see a dermatologist for a skin check and she prescribed cream 
and
recommended compression stockings. When going to buy compression
stockings, the woman in the store recommended a vascular surgery
evaluation which the patient had and subsequently cancelled. The
patient's wife reports his lower extremity edema is unchanged
although the redness may be slightly worse.

Currently, the patient reports he feels well. He denies pain,
denies neck pain. He also denies fevers or chills, palpitations,
cough, dysuria, recent illness. He has been eating and drinking
normally.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Cognitive impairment
Hypertension
Chronic venous hypertension with bilateral lower extremity
swelling
GERD
Overactive bladder

Surgical History:
S/P C1-C2 fusion ___- Dr. ___
C-spine surgery at the ___ in ___
S/P  post debridement of the postsurgical dehiscence in
___
S/P b/l shoulder surgery
S/P B/L Hip replacement
S/p bladder pacemaker

 
Social History:
___
Family History:
Mother died age ___ ___ disease, father
died at age ___ unknown, has 4 brothers, one died at age ___ of
esophageal  cancer and the other more recently of cancer.

 
Physical Exam:
EXAM(8)
VITALS:97.8 BP: 184/92 P:78 R: 20 95 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round and react to light
ENT: Ears and nose with some erythema/swelling, no masses, or
trauma.  Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Some erythema of right shin with some peeling skin
NEURO: Alert, oriented to person, not place or time, face 
symmetric, gaze conjugate with EOMI, speech fluent, moves all 
limbs, sensation to light touch grossly intact throughout
PSYCH: pleasant, appropriate affect

Exam on discharge:
VITALS:97.3 BP: 133/71 HR: 65 R:18 94 RA  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round and react to light
ENT: Ears and nose with some healing excoriations, bruising 
under eyes, no masses, or trauma.  Oropharynx without visible 
lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: Some erythema of right shin with quarter size ulcer on 
posterior without drainage. +skin peeling
NEURO: Alert, oriented to person, not place or time, face 
symmetric, gaze conjugate with EOMI, speech fluent, moves all 
limbs, sensation to light touch grossly intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Labs:

___ 05:08AM BLOOD WBC-4.3 RBC-3.97* Hgb-13.4* Hct-39.4* 
MCV-99* MCH-33.8* MCHC-34.0 RDW-12.5 RDWSD-45.1 Plt ___
___ 07:30AM BLOOD Glucose-113* UreaN-17 Creat-0.9 Na-144 
K-4.0 Cl-104 HCO3-29 AnGap-11
___ 07:30AM BLOOD Calcium-9.2 Phos-2.9 Mg-1.8
___ 05:01AM BLOOD Lactate-2.7*

IMAGING:

Maxolofacial  ___
IMPRESSION: Nasal fracture and possible fracture of anterior
nasal septum.

C- Spine CT: ___
IMPRESSION: 
No acute fracture or malalignment identified. Postoperative
changes and old fracture of C1 are again noted.

Head CT: ___
Impression: 
No acute intracranial abnormality identified. Nasal fracture.

CXR:
Impression:
1. There is no evidence of an acute cardiac or pulmonary 
process.
2. There is no definite acute fracture. Focused imaging of an
area of concern would be more sensitive if clinically indicated.

Femur xray:
IMPRESSION:
1. There is no acute right femur fracture.

Pelvis xray:
IMPRESSION:
1. There is no gross evidence of right hip hardware fracture or
loosening
2. No acute right hip bony fracture or dislocation.
3. There is no acute pelvic fracture in the field-of-view.

Pelvis Fracture:
IMPRESSION:
1. There is no acute pelvic fracture or diastasis.

 
Brief Hospital Course:
Mr. ___ is a ___ male with PMH of cognitive 
impairment, hypertension and chronic lower extremity edema who 
presents with mechanical fall and concern for C1
fracture

#Fall
#Nasal Fracture
#C1 fracture
Per wife, in setting of rising from chair/gait instability with 
resultant nasal fracture. Orthostatic vital signs were checked 
and were negative.  Patient without warning signs concerning for 
syncope/seizure or cardiac etiology of fall. C1 fracture is 
old-confirmed by radiology read and review by ortho-spine here.
For nasal fracture, the patient can follow up in ___ weeks with 
Plastic Surgery Chief resident- Dr. ___ ___. The 
patient was seen by ___ who recommended rehab.

#Dementia:
#Toxic Metabolic Encephalopathy
Per wife, cognitive impairment has been getting worse over the 
past year and even worse in the past few months. The patient has 
been more difficult to manage at home. We discussed resources in 
the communitity including PCP, elder services and ___ 
association. The patient would also benefit from neurology 
evaluation/ neuropsychiatric testing if he is agreeable. The 
patient had one episode of agitation/delirium requiring Haldol. 
He was started on ___ to maintain sleep wake cycle which 
he frequently refused. At baseline, he is alert and oriented to 
person, place but not time.

___ edema
#Concern for cellulitis
Per wife ___ has had some increasing erhtyema. The patient was 
treated with Keflex for non-purulent cellulitis x 7 days total. 
He should continue local skin care and consider referral to 
vascular surgery or dermatology as an outpatient.

#Hypertensive urgency
BP was elevated on admission in setting of missed medications. 
Quinipril dose was increased to 20mg daily with improved BP 
control.

Transitional issues:
- Patient and family would benefit from ongoing support, 
increased resources
- Consider referral to neurology for dementia evaluation
- Continue local wound care for leg ulcer and consider referral 
to vascular surgery

# Contacts/HCP/Surrogate and Communication: Wife ___-
___
# Code Status/Advance Care Planning: (please also see current 
POE
order) DNR/DNI- confirmed with patient and his wife

Patient seen and examined on day of discharge. >30 minutes on 
coordination of complex discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Quinapril 10 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mechanical Fall
Cellulitis
Cognitive impairment
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted after a fall.  There was concern that 
you broke your vertebrae, after review, we determined that this 
fracture is old. You also broke your nose. If you would like, 
you can follow up with plastic surgery after discharge.  You 
were also treated with antibiotics for a leg infection. You 
should keep your legs elevated and follow up with a vascular 
surgeon or return to see your dermatologist.
You were seen by physical therapy who recommended you go to 
rehab for physical therapy.

We wish you the best,
Your ___ Care team

 
Followup Instructions:
___